US07420001B2
To 4-(3-methoxy-propyl)-3-methyl-benzofuran-2-carboxylic acid (0.2354 g, 0.853 mmol) in tetrahydrofuran (10 mL) cooled at 0° C. was added diisopropylaluminium hydride (3.41 mL, of a 1.0M solution in toluene) dropwise. After stirring for 1 hour methanol (5 mL) was added followed by saturated aqueous sodium potassium tartrate (5 mL). The resulting mixture was stirred for 15 minutes and was then thrice extracted with ethyl acetate. Combined organic extracts were dried over sodium sulfate, filtered, reduced to dryness and the resulting residue was subjected to silica gel gradient flash chromatography (hexanes/ ethyl acetate 10:1-3:1) which furnished 0.192 g (96%) of [4-(3-methoxypropyl)-3-methyl-1-benzofuran-2-yl]methanol as a white solid. MS (ES) m/z: 234.1 (M+).

reactant | 4-(3-methoxy-propyl)-3-methyl-benzofuran-2-carboxylic acid | 0.853 mmol, 0.2354 g | COCCCC1=CC=CC2=C1C(=C(O2)C(=O)O)C | C14H16O4
reactant | diisopropylaluminium hydride | [H-].C(C)(C)[Al+]C(C)C
reactant | methanol | 5 mL | CO | CH4O
reactant | sodium potassium tartrate | 5 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [4-(3-methoxypropyl)-3-methyl-1-benzofuran-2-yl]methanol | 0.192 g, 96% | COCCCC1=CC=CC2=C1C(=C(O2)CO)C | C14H18O3
